US04165372
A mixture of 3.0 g (0.0079 mole) of 6-carboxy-7,8-dihydroxy-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine hydrobromide in 200 ml of methanol saturated with hydrogen chloride gas was heated at reflux for 60 hours. The solvent was stripped off and the residue was triturated with ethyl acetate, then recrystallized from methanol-ethyl acetate to give 6-carbomethoxy-7,8-dihydroxy-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine hydrochloride, m.p. 216°-219° (dec.).

reactant | 6-carboxy-7,8-dihydroxy-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine hydrobromide | 0.0079 mole, 3.0 g | Br.C(=O)(O)C1=C(C(=CC=2C(CNCCC21)C2=CC=CC=C2)O)O
reactant | hydrogen chloride | Cl | ClH
reactant | methanol | 200 ml | CO | CH4O
product | 6-carbomethoxy-7,8-dihydroxy-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine hydrochloride | Cl.C(=O)(OC)C1=C(C(=CC=2C(CNCCC21)C2=CC=CC=C2)O)O | InChI=1S/C18H19NO4.ClH/c1-23-18(22)16-12-7-8-19-10-14(11-5-3-2-4-6-11)13(12)9-15(20)17(16)21;/h2-6,9,14,19-21H,7-8,10H2,1H3;1H
